US04444773
7-chloromethyl-3-phenyl-5H-thiazolo[3,2-a]pyrimidine-5-one, m.p. 194°-195° C. (7.8 g), prepared according to Example 5, was reacted with triphenylphosphine (8 g) in acetonitrile (250 ml) under stirring at the reflux temperature for 24 hours. After cooling the solution was concentrated in vacuo to a small volume, diluted with isopropyl ether and the precipitate was filtered to give 11 g of [3-phenyl-5H-thiazolo[3,2-a]pyrimidine-5-one-7-yl]-methyl-triphenylphosphonium chloride, which was suspended in dimethylsulfoxide (50 ml) and treated with potassium tert-butoxide (2.46 g) dissolved in dimethylsulfoxide (50 ml) under stirring at room temperature. The solution of the ylide so obtained was reacted with 3-pyridine-carboxaldehyde (2.36 g) at room temperature for 60 minutes then the reaction mixture was diluted with ice water and neutralized with NaH2PO4.

reactant | 7-chloromethyl-3-phenyl-5H-thiazolo[3,2-a]pyrimidine-5-one | ClCC=1N=C2N(C(C1)=O)C(=CS2)C2=CC=CC=C2 | C13H9ClN2OS
reactant | triphenylphosphine | 8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetonitrile | 250 ml | C(C)#N | C2H3N
product | [3-phenyl-5H-thiazolo[3,2-a]pyrimidine-5-one-7-yl]-methyl-triphenylphosphonium chloride | 11 g | [Cl-].C1(=CC=CC=C1)C1=CSC=2N1C(C=C(N2)C2=C(C=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C)=O | InChI=1S/C31H24N2OPS.ClH/c1-35(24-15-7-3-8-16-24,25-17-9-4-10-18-25)29-20-12-11-19-26(29)27-21-30(34)33-28(22-36-31(33)32-27)23-13-5-2-6-14-23;/h2-22H,1H3;1H/q+1;/p-1
